US08106190B2
Sodium triacetoxyborohydride (138 mg) was added to a dichloroethane (20 mL) solution of 2-{[(1S,2S)-2-aminocyclohexyl]amino}-N-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-4-(trifluoromethyl)benzamide (200 mg), cyclopentanone (40 mg) and acetic acid (29 mg), followed by stirring at room temperature for 1 day. Acetic acid (260 mg), cyclopentanone (140 mg) and sodium triacetoxyborohydride (140 mg) were added to the reaction liquid, followed by stirring for 1 day. A 1 M sodium hydroxide aqueous solution was added to the reaction liquid, followed by extraction with chloroform. The organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol, 1:0 to 85:15). By treating the resulting free base with 4 M hydrogen chloride/ethyl acetate, 2-{[(1S,2S)-2-(cyclopentylamino)cyclohexyl]amino}-N-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-4-(trifluoromethyl)benzamide hydrochloride (53 mg) was obtained as a white solid.

reactant | Sodium triacetoxyborohydride | 138 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
reactant | 2-{[(1S,2S)-2-aminocyclohexyl]amino}-N-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-4-(trifluoromethyl)benzamide | 200 mg | N[C@@H]1[C@H](CCCC1)NC1=C(C(=O)NC2=CC=C3C(C(NC3=C2)=O)(C)C)C=CC(=C1)C(F)(F)F | C24H27F3N4O2
reactant | cyclopentanone | 40 mg | C1(CCCC1)=O | C5H8O
reactant | cyclopentanone | 140 mg | C1(CCCC1)=O | C5H8O
reactant | sodium triacetoxyborohydride | 140 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | Acetic acid | 260 mg | C(C)(=O)O | C2H4O2
solvent | acetic acid | 29 mg | C(C)(=O)O | C2H4O2
product | 2-{[(1S,2S)-2-(cyclopentylamino)cyclohexyl]amino}-N-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-4-(trifluoromethyl)benzamide hydrochloride | 53 mg | Cl.C1(CCCC1)N[C@@H]1[C@H](CCCC1)NC1=C(C(=O)NC2=CC=C3C(C(NC3=C2)=O)(C)C)C=CC(=C1)C(F)(F)F | InChI=1S/C29H35F3N4O2.ClH/c1-28(2)21-14-12-19(16-25(21)36-27(28)38)34-26(37)20-13-11-17(29(30,31)32)15-24(20)35-23-10-6-5-9-22(23)33-18-7-3-4-8-18;/h11-16,18,22-23,33,35H,3-10H2,1-2H3,(H,34,37)(H,36,38);1H/t22-,23-;/m0./s1
